US20010047099A1
D. 4-Amino-6-bromo-3-methoxypyridine-2-carboxylic acid (Compound 41)
To methyl 4-amino-6-bromo-3-methoxypyridine-2-carboxylate (0.300 g, 1.15 mmol) in 10 mL of methanol was added 1N NaOH (1.15 mL, 1.15 mmol). The reaction mixture was stirred at room temperature for 1 hr and concentrated to dryness in vacuo. Diethyl ether and H2O were added. The aqueous layer was acidified with 1N HCl until pH=2 and concentrated to dryness. Methanol (50 mL) was added to the white solid. The mixture was filtered and the filtrate concentrated to dryness. Triturating with 5% diethyl ether/pet ether gave 0.180 g of a light pink solid. 1H NMR(DMSO): δ 3.60 (s, 3H); 6.80 (s, 1H).

reactant | methyl 4-amino-6-bromo-3-methoxypyridine-2-carboxylate | 1.15 mmol, 0.300 g | NC1=C(C(=NC(=C1)Br)C(=O)OC)OC | C8H9BrN2O3
reactant | NaOH | 1.15 mmol, 1N, 1.15 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 4-Amino-6-bromo-3-methoxypyridine-2-carboxylic acid | 0.180 g | NC1=C(C(=NC(=C1)Br)C(=O)O)OC | C7H7BrN2O3
